US08314098B2
(Step 2): 2-Benzyloxy-5-chloro-7-morpholin-4-yl-pyrazolo[1,5-a]-pyrimidine
There was dissolved, in 1,4-dioxane (3 mL), 2-benzyloxy-5,7-dichloro-pyrazolo-[1,5-a]-pyrimidine (167 mg, 0.568 mM), then morpholine (99.1 μL, 1.14 mM) was added to the solution and the mixture was stirred at room temperature for one hour. The solvent was distilled off from this reaction mixture, followed by the dilution of the residue with water and the subsequent extraction of the mixture with methylene chloride. The resulting extracts were combined, dried over anhydrous sodium sulfate, the solvent was distilled off and the resulting solid was washed with methanol to thus give the title compound (188 mg, yield: 96%).

reactant | 2-benzyloxy-5,7-dichloro-pyrazolo-[1,5-a]-pyrimidine | 0.568 mM, 167 mg | C(C1=CC=CC=C1)OC1=NN2C(N=C(C=C2Cl)Cl)=C1 | C13H9Cl2N3O
reactant | morpholine | 1.14 mM, 99.1 μL | N1CCOCC1 | C4H9NO
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 2-Benzyloxy-5-chloro-7-morpholin-4-yl-pyrazolo[1,5-a]-pyrimidine | 188 mg, yield: 96% | C(C1=CC=CC=C1)OC1=NN2C(N=C(C=C2N2CCOCC2)Cl)=C1 | C17H17ClN4O2
